* OTA SHRINK: does making the CURRENT SOURCES small break the OTA?
*
* Gate-area breakdown of the OTAs as drawn:
*   ota1b : tail W32L8 = 256 um2 = 64% ; input pair 2 x W32L2 = 128 = 32%
*   ota2b : XMS W48L8 = 384 = 48% ; tail 256 = 32% ; pair 128 = 16%
* 64-80% of every OTA is CURRENT SOURCE, not signal path.  Source mismatch
* is a GAIN error, which the two-point readout calibration absorbs; the
* INPUT PAIR sets offset, the term cell_topology.md calls the largest
* mismatch contributor in the system.  So shrink the sources at constant
* W/L (constant current) and leave the pair alone.
*
* The risk is not matching but OUTPUT RESISTANCE: a tail at L=8 has high
* ro; at L=2 it is ~4x lower, costing CMRR and letting the tail current
* droop with common mode.  That droop is a NONLINEARITY, which calibration
* does not absorb.  This deck measures offset spread; ota_shrink_dc.spice
* measures the droop.
*
* Candidates (constant W/L = 4, so the bias current is unchanged):
*   ci=0  tail W32 L8  (baseline)   ci=1  W16 L4      ci=2  W8 L2
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt_mm

.param wt=32 lt=8 vcm=1.2

.subckt ota1p inp inn out vdd pbias wt=32 lt=8
XMT ntail pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W='wt' L='lt'
XMP1 n1  inp ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=32 L=2
XMP2 out inn ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=32 L=2
XMN1 n1  n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
XMN2 out n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
.ends

VDD vdd 0 3.3
* pbias from a diode leg at W/L=2, the ratio the real bias tree produces.
* IB must SINK from pb (pb -> 0).  Written as "IB vdd pb" it pushed INTO
* the node, pb sat at 3.97 V on a 3.3 V rail, the tail PMOS had positive
* Vgs and was OFF -- and the deck still "converged", reporting a 172 mV
* offset sigma that is ~100x physical.
IB  pb 0 2u
XPB pb pb vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8

* Unity-gain follower: inn ties to out, so (out - inp) IS the
* input-referred offset -- the loop drives it there.
VIN inp 0 'vcm'
XO inp out out vdd pb ota1p wt='wt' lt='lt'

.control
set filetype=ascii
echo > ota_shrink_mc.txt
let ci = 0
dowhile ci < 3
  if ci = 0
    alterparam wt = 32
    alterparam lt = 8
  end
  if ci = 1
    alterparam wt = 16
    alterparam lt = 4
  end
  if ci = 2
    alterparam wt = 8
    alterparam lt = 2
  end
  let k = 0
  dowhile k < 120
    reset
    op
    echo $&ci $&k $&v(out) $&v(inp) >> ota_shrink_mc.txt
    let k = k + 1
  end
  let ci = ci + 1
end
echo OTA_MC_DONE
.endc
.end
